US08232278B2
Synthesis of 4-morpholino-6-chloro-pyrido[3,2-d]pyrimidine
The title compound was synthesized in 71% yield from 4,6-dichloro-pyrido[3,2-d]pyrimidine and morpholine by the procedure of example 65, and was characterized by its mass spectrum as follows: MS (m/z): 251.1 ([M+H]+, 100).

reactant | 4,6-dichloro-pyrido[3,2-d]pyrimidine | ClC=1C2=C(N=CN1)C=CC(=N2)Cl | C7H3Cl2N3
reactant | morpholine | N1CCOCC1 | C4H9NO
product | 4-morpholino-6-chloro-pyrido[3,2-d]pyrimidine | 71% yield | O1CCN(CC1)C=1C2=C(N=CN1)C=CC(=N2)Cl | C11H11ClN4O
